### PR TITLE
[Merged by Bors] - feat: rcases and rintro tactics

### PR DESCRIPTION
**Pull request by digama0**
I finally got around to porting `rcases` for real. There are a few things that should probably be upstreamed: `generalizeExceptFVar` is a piece of a function in `cases`, and `FVarSubst.append` does not belong here. Indeed `FVarSubst.append` is only needed because `cases` does not expose a `FVarSubst` argument even though it talks about having one in the comments.

`obtain`, `rcases`, and `rintro` are fully implemented, but `rcases?` and `rintro?` have not been implemented yet; I intend to do these in a follow up PR.

### CODE REVIEW

File: test/rcases.lean [hunk 1]
```diff
@@ -0,0 +1,108 @@
...
+  trivial
+
+example (h : ∃ x : Nat, x = x ∧ 1 = 1) : True := by
+  rcases h with ⟨-, _, h⟩
+  checkNumHyps 1
+  guard_hyp h : 1 = 1
+  trivial
+
+example (h : True ∨ True ∨ True) : True := by
+  rcases h with - | - | -
```
Comment (digama0) [inline test/rcases.lean:107]: This is in one sense a failed test: the original had `-|-|-` to test that the parser hack for `|-` worked, but the new parser has no hack and fails to parse this correctly. Is this an argument for removing the `|-` token?

File: Mathlib/Tactic/RCases.lean [hunk 2]
```diff
@@ -0,0 +1,430 @@
...
+* A hyphen `-`, which clears the active hypothesis and any dependents.
+* The keyword `rfl`, which expects the hypothesis to be `h : a = b`, and calls `subst` on the
+  hypothesis (which has the effect of replacing `b` with `a` everywhere or vice versa).
+* A type ascription `p : ty`, which sets the type of the hypothesis to `ty` and then matches it
+  against `p`. (Of course, `ty` must unify with the actual type of `h` for this to work.)
+* A tuple pattern `⟨p1, p2, p3⟩`, which matches a constructor with many arguments, or a series
+  of nested conjunctions or existentials. For example if the active hypothesis is `a ∧ b ∧ c`,
+  then the conjunction will be destructured, and `p1` will be matched against `a`, `p2` against `b`
+  and so on.
+* An alteration pattern `p1 | p2 | p3`, which matches an inductive type with multiple constructors,
```
Comment (Ruben-VandeVelde) [inline Mathlib/Tactic/RCases.lean:33]:
```suggestion
* An alternation pattern `p1 | p2 | p3`, which matches an inductive type with multiple constructors,
```

File: test/rcases.lean (hunk 1 above)
Comment (gebner) [reply test/rcases.lean:113]: Yes, I believe we wanted to remove it from Lean 3 as well.

File: Mathlib/Tactic/RCases.lean [hunk 3]
```diff
@@ -0,0 +1,452 @@
...
+/-- Like `tryClearMany`, but also clears dependent hypotheses if possible -/
+def tryClearMany' (mvarId : MVarId) (fvarIds : Array FVarId) : MetaM MVarId := do
+  let mctx ← getMCtx
+  let toErase := (← getMVarDecl mvarId).lctx.foldl (init := fvarIds) fun toErase localDecl =>
+    if mctx.findLocalDeclDependsOn localDecl toErase.contains then
+      toErase.push localDecl.fvarId
+    else toErase
+  tryClearMany mvarId toErase
+
+/-- The terminating contiunation used in `rcasesCore` and `rcasesContinue`. We specialize the type
```
Comment (pechersky) [inline Mathlib/Tactic/RCases.lean:351]:
```suggestion
/-- The terminating continuation  used in `rcasesCore` and `rcasesContinue`. We specialize the type
```

**Comment by digama0** [comment]
@pechersky `rcases` does not accept the plain list-of-names syntax of `cases` in mathlib. The plan is to have a separate `cases'` tactic to handle that (which is needed for mathport). I think for lean 4 we should try not to ever use `cases'` though; I think `rcases` is strictly better than `cases'`, and `cases` is also often an option although the syntax is significantly different.

File: Mathlib/Tactic/RCases.lean [hunk 4]
```diff
@@ -0,0 +1,521 @@
...
+/- A list, with a disjunctive meaning (like a list of inductive constructors, or subgoals) -/
+local notation "ListΣ" => List
+
+/- A list, with a conjunctive meaning (like a list of constructor arguments, or hypotheses) -/
+local notation "ListΠ" => List
+
+namespace Lean.Meta
+
+/-- Constructs a substitution consisting of `s` followed by `t`.
+  This satisfies `(s.append t).apply e = t.apply (s.apply e)` -/
```
Comment (gebner) [inline Mathlib/Tactic/RCases.lean:83]:
```suggestion
  This satisfies `(s.append t).apply e = t.apply (s.apply e)`
  for `e` that are in the domain of `s`. -/
```

AFAICT, most tactics only return substitutions for the variables that they changed (i.e. `subst x` would not return a substitution for an `α : Type` at the beginning of the local context).

Comment (digama0) [reply Mathlib/Tactic/RCases.lean:83]: No, the original statement is correct. Note that `s.apply e` will return `e` unchanged if it is not in the substitution map. BTW, I think that any tactic that provides a `FVarSubst` should also take a `FVarSubst` as input, which serves no purpose other than to be the base for insertion. This is essentially the same as the `dlist` encoding of lists: it is more efficient to carry along a running substitution and add to it rather than using `append` (which is a workaround for those tactics that don't provide differential `FVarSubst` output).

Comment (gebner) [reply Mathlib/Tactic/RCases.lean:83]: > Note that s.apply e will return e unchanged if it is not in the substitution map. 

This is precisely the issue.  If `s` doesn't contain `e` but `t` does, then `e` won't appear in the result of `append`.

Say you have the following context:
```
x y : Nat
h1 : x = y
z w : Nat
h2 : z = w
```
Then `subst h2` will return `s = {w ↦ w', h2 ↦ h2'}`.  If you call `subst h1` after that, you get `t = {y ↦ y', h1 ↦ h1'}`.  Note that `s.append t = s` keeps `y` unchanged even though it was renamed by the second subst.  (This is all based on just reading the code; I didn't run it.  I hope I'm wrong.)

Comment (digama0) [reply Mathlib/Tactic/RCases.lean:83]: Let me put it another way: `(s.append t).apply e = t.apply (s.apply e)` is the *definition* of `append`, and the implementation is whatever is necessary to make this equation true. In your example `s` and `t` have disjoint domains, so `s.append t` should just be the union of the maps. As far as I can tell this is also the behavior of the implementation: it inserts every element in `s` to `t` (the `t.apply v` call just reduces to `v`). We get `{y ↦ y', h1 ↦ h1', k ↦ k'} |>.insert w w' |>.insert h2 h2' = {y ↦ y', h1 ↦ h1', k ↦ k', w ↦ w', h2 ↦ h2'}` as expected.

Comment (gebner) [reply Mathlib/Tactic/RCases.lean:83]: Ah, nevermind.  You're right.  I missed the `t` at the end.
